US04588732
To a stirred suspension of 150 mg of sodium hydride in 25 ml of toluene is added 550 mg of triethyl 4-phosphonocrotonate in a dropwise manner over a 10-minute period. The reaction mixture is maintained at 5° by cooling in an ice-water bath. On completion of the addition, 300 mg of 5-formylimidazol[1,5-a]pyridine is added to the reaction mixture which is then allowed to stir at room temperature for 1 hour. The reaction mixture is poured into 100 ml of ice water and extracted with 2×100 ml of ethyl acetate. The ethyl acetate extracts are combined and dried over magnesium sulfate, filtered and evaporated to dryness to yield an oily residue. This is purified by column chromatography on silica gel using a mixture of diethyl ether and ethyl acetate as eluent. Evaporation of the solvent under reduced pressure yields 5-(4-ethoxycarbonylbuta-1,3-dienyl)-imidazo[1,5-a]pyridine melting at 101°-103°.

reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | triethyl 4-phosphonocrotonate | 550 mg | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | 5-formylimidazol[1,5-a]pyridine | 300 mg | C(=O)C1=CC=CC=2N1C=NC2 | C8H6N2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-ethoxycarbonylbuta-1,3-dienyl)-imidazo[1,5-a]pyridine | C(C)OC(=O)C=CC=CC1=CC=CC=2N1C=NC2 | C14H14N2O2
